US08492559B2
Stage 4: tert-Butyl 2-(6-(10-chloro-1-oxo-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-1H-indol-1-yl)acetate
tert-Butyl 2-(6-(3-chloro-1H-indole-2-carboxamido)-1H-indol-1-yl)acetate (1.41 mmol, 1.0 equiv.) and TBAB (1.41 mmol, 1.0 equiv.) were dissolved in 1 N NaOH (12 ml); 1,2-dibromoethane (14.18 mmol, 10.0 equiv.) was added, and the mixture was stirred for 12 h at 25° C. The reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (100 ml). The organic phase was washed with sat. NaCl solution (50 ml), dried over Na2SO4 and concentrated under reduced pressure, and the desired product was obtained by purification by column chromatography. Yield: 78%

reactant | tert-Butyl 2-(6-(3-chloro-1H-indole-2-carboxamido)-1H-indol-1-yl)acetate | 1.41 mmol, 1.0 equiv. | ClC1=C(NC2=CC=CC=C12)C(=O)NC1=CC=C2C=CN(C2=C1)CC(=O)OC(C)(C)C | C23H22ClN3O3
reactant | 1,2-dibromoethane | 14.18 mmol, 10.0 equiv. | BrCCBr | C2H4Br2
catalyst | TBAB | 1.41 mmol, 1.0 equiv. | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | NaOH | 1 N, 12 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | tert-Butyl 2-(6-(10-chloro-1-oxo-3,4-dihydropyrazino[1,2-a]indol-2(1H)-yl)-1H-indol-1-yl)acetate | Yield: 78% | ClC1=C2N(C=3C=CC=CC13)CCN(C2=O)C2=CC=C1C=CN(C1=C2)CC(=O)OC(C)(C)C | C25H24ClN3O3
